US05030646
Stage A: 1-Methyl-2-Indolinethione
148 g (1.76 mol) of sodium bicarbonate are added in 20-gram portions with brisk stirring and at room temperature to a suspension of 130 g (0.8 mol) of 1-methyl-2-indolinone, prepared according to R. A. ABRAMOVITCH and D. H. HEY (J. Chem. Soc., 1954, 1699) and 133 g (0.3 mol) of phosphorus pentasulfide in 1.30 1 of anhydrous tetrahydrofuran. After 10 hours' stirring at room temperature, the mixture is filtered and the filtrate is concentrated on a water bath under vacuum. The residue is taken up with a water/ice mixture and the resulting mixture is extracted three times with chloroform. The organic phase is washed with water and then with saturated aqueous sodium chloride solution, dried and evaporated to dryness. The residue is recrystallized in methanol.

reactant | sodium bicarbonate | 1.76 mol, 148 g | C([O-])(O)=O.[Na+]
reactant | 1-methyl-2-indolinone | 0.8 mol, 130 g | CN1C(CC2=CC=CC=C12)=O | C9H9NO
reactant | phosphorus pentasulfide | 0.3 mol, 133 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Methyl-2-Indolinethione | CN1C(CC2=CC=CC=C12)=S | C9H9NS
